US08541448B2
Compound 34: (2S)-2-(3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)succinic acid
Into a 50-mL round-bottom flask, was placed a solution of (2S)-dimethyl 2-(3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)succinate (100 mg, 0.20 mmol, 1.00 equiv) in methanol (5 mL), water (1 mL), sodium hydroxide (30 mg, 0.75 mmol, 3.71 equiv). The resulting solution was stirred for 3 h at room temperature and then concentrated under vacuum. The pH of the solution was adjusted to 3-4 with 1N hydrochloric acid. The solids were collected by filtration and the residue was lyophilized. This resulted in 16 mg (16%) of (2S)-2-(3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)succinic acid as a white solid. 1H-NMR (300 MHz, DMSO, ppm): δ 8.98 (s, 1H), 7.66 (s, 1H), 7.38-7.44 (d, J=17.1 Hz, 2H), 7.12-7.15 (d, J=8.4 Hz, 2H), 6.78 (s, 1H), 6.60-6.63 (s, 1H), 4.48-4.54 (m, 4H), 3.63-3.66 (s, 2H), 3.01 (s, 1H), 2.51-2.84 (m, 2H). MS (ES, m/z): 466 [M+H]+.

reactant | (2S)-dimethyl 2-(3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)succinate | 0.20 mmol, 100 mg, 1.00 equiv | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)NC(N[C@H](C(=O)OC)CC(=O)OC)=O | C23H25Cl2N3O5
reactant | sodium hydroxide | 0.75 mmol, 30 mg, 3.71 equiv | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | (2S)-2-(3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)succinic acid | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)NC(N[C@H](C(=O)O)CC(=O)O)=O | C21H21Cl2N3O5
